* RC circuit: 10kOhm, 1000uF with leakage, 4.78V supply
* R_leak models capacitor leakage current
V1 2 0 4.78
R1 2 1 10000
C1 1 0 0.00068
R_leak 1 0 17800
.tran 0.1 300.0