* RC discharge: 10kOhm, 105uF effective, starting from 4.78V
* Capacitor pre-charged to 4.78V via initial condition
V1 2 0 0.0
R1 2 1 10000
C1 1 0 0.000105 IC=4.78
.tran 0.05 15.0